US09376442B2
4-[2-(Cyclopropylmethoxy)-5-(difluoromethyl)phenyl]-N-[(1S*,2R*,4S*)-2-fluoro-4-(propanoylamino)cyclohexyl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide
Starting from N-[(1S*,2R*,4S*)-4-amino-2-fluorocyclohexyl]-4-[2-(cyclopropylmethoxy)-5-(difluoromethyl)phenyl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide (example D.f73) and commercially available propionyl chloride the title compound is obtained as colorless solid.

reactant | N-[(1S*,2R*,4S*)-4-amino-2-fluorocyclohexyl]-4-[2-(cyclopropylmethoxy)-5-(difluoromethyl)phenyl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide | N[C@@H]1C[C@H]([C@H](CC1)NC(=O)C1=C(NC2=C1N=CN=C2C2=C(C=CC(=C2)C(F)F)OCC2CC2)C)F | C25H28F3N5O2
reactant | propionyl chloride | C(CC)(=O)Cl | C3H5ClO
product | 4-[2-(Cyclopropylmethoxy)-5-(difluoromethyl)phenyl]-N-[(1S*,2R*,4S*)-2-fluoro-4-(propanoylamino)cyclohexyl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide | C1(CC1)COC1=C(C=C(C=C1)C(F)F)C=1C2=C(N=CN1)C(=C(N2)C)C(=O)N[C@@H]2[C@@H](C[C@H](CC2)NC(CC)=O)F | C28H32F3N5O3
